US05064833
Preparation of 2-(2-methylphenylamino)-4-(N-methylphenylamino)-8-fluoroquinazoline hydrochloride
In a procedure analogous to that of Example 41 2-chloro-4-(N-methylphenylamino)-8-fluoroquinazoline and o-toluidine are reacted together to give the title compound. The starting 2-chloro-4-(N-methylphenylamino)8-fluoroquinazoline is prepared via procedures analogous to those of Example 1.

reactant | 2-chloro-4-(N-methylphenylamino)-8-fluoroquinazoline | ClC1=NC2=C(C=CC=C2C(=N1)N(C)C1=CC=CC=C1)F | C15H11ClFN3
reactant | o-toluidine | NC=1C(=CC=CC1)C | C7H9N
product | 2-(2-methylphenylamino)-4-(N-methylphenylamino)-8-fluoroquinazoline hydrochloride | Cl.CC1=C(C=CC=C1)NC1=NC2=C(C=CC=C2C(=N1)N(C)C1=CC=CC=C1)F | InChI=1S/C22H19FN4.ClH/c1-15-9-6-7-14-19(15)24-22-25-20-17(12-8-13-18(20)23)21(26-22)27(2)16-10-4-3-5-11-16;/h3-14H,1-2H3,(H,24,25,26);1H
